US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-8-(trifluoromethyl)-3-quinolinecarboxamide
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-8-(trifluoromethyl)-3-quinolinecarboxamide (397 mg) from Example No. 121 is dissolved in methanol/dichloromethane (1/1, 87 mL) and palladium on carbon (5%, 80 mg) are added. The mixture is placed under a hydrogen atmosphere (28 psi) for 1 h, filtered through celite, and concentrated. The crude product is purified by column chromatography (dichloromethane/methanol, 100/1 to 100/3) to afford 43 mg (10%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-8-(trifluoromethyl)-3-quinolinecarboxamide | 397 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)C(F)(F)F)C=C1 | C21H14ClF3N2O3
solvent | diethyl ether hexane | 87 mL | C(C)OCC.CCCCCC
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-8-(trifluoromethyl)-3-quinolinecarboxamide | 43 mg, 10% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCO)C(F)(F)F)C=C1 | C21H18ClF3N2O3
